US07662771B2
5-[4-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid
Combine 5-[4-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid methyl ester (2.40 g, 8.29 mmol), hydrobromic acid (50 mL, 48% in water), and acetic acid (25 mL, glacial) and heat to reflux under N2 for 4 hours. Add hydrobromic acid (25 mL, 48% in water) and acetic acid (25 mL, glacial) and continue heating at reflux under N2 overnight Cool to room temperature, filter out solids and dry in a 50° C. vacuum oven overnight to yield the title compound (1.45 g, 67%). MS (IS) 260 (M−1)−.

reactant | 5-[4-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid methyl ester | 8.29 mmol, 2.40 g | COC(CCCCN1N=NC(=C1)C1=C(C=CC=C1)OC)=O | C15H19N3O3
reactant | hydrobromic acid | 50 mL | Br | BrH
reactant | hydrobromic acid | 25 mL | Br | BrH
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 5-[4-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid | 1.45 g, 67% | OC1=C(C=CC=C1)C=1N=NN(C1)CCCCC(=O)O | C13H15N3O3
